US05179085
STEP B: Preparation of Diethyl[[3-(2-aminoethyl)phenyl]methyl]phosphonate
A solution of diethyl[[3-(cyanomethyl)phenyl]methyl]phosphonate in methanolic ammonia is reduced under a hydrogen atmosphere (50 psi) with Raney nickel as catalyst. The solvent is evaporated to give an oil (4.1 g).

reactant | diethyl[[3-(cyanomethyl)phenyl]methyl]phosphonate | C(C)OP(OCC)(=O)CC1=CC(=CC=C1)CC#N | C13H18NO3P
solvent | ammonia | N | H3N
catalyst | Raney nickel | [Ni] | Ni
product | Diethyl[[3-(2-aminoethyl)phenyl]methyl]phosphonate | 4.1 g | C(C)OP(OCC)(=O)CC1=CC(=CC=C1)CCN | C13H22NO3P
